US07915424B2
Add a 2 M solution of n-butyllithium in hexanes (63 mL, 157.5 mmol) to a −20° C. solution of 2,2,6,6-tetramethylpiperidine (28 mL, 165 mmol) in tetrahydrofuran (400 μL). Cool to −78° C. and add 1-iodo-4-fluorobenzene (17.3 mL, 150 mmol) dropwise over 10 min. Stir the reaction mixture at −78° C. for 3 h and add triisopropylborate (40 mL, 172.5 mmol) dropwise over 20 min. Stir for another 30 min and warm the reaction to 40° C. and add of 5 N hydrochloric acid (75 mL). Partition the reaction mixture between diethyl ether (500 mL) and add 1 N hydrochloric acid (500 mL). Separate the organic layer and extract with 2 N sodium hydroxide (400 mL). Make the aqueous layer slightly acidic (pH ˜5-6) by dropwise addition of 5 N hydrochloric acid and collect the resulting white precipitate by filtration. Dry the precipitate overnight under vacuum to provide 2-fluoro-5-iodophenylboronic acid as a white solid, which is used directly without further purification (39g, 98%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 165 mmol, 28 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-iodo-4-fluorobenzene | 150 mmol, 17.3 mL | IC1=CC=C(C=C1)F | C6H4FI
reactant | triisopropylborate | 172.5 mmol, 40 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 5 N, 75 mL | Cl | ClH
solvent | tetrahydrofuran | 400 μL | O1CCCC1 | C4H8O
product | 2-fluoro-5-iodophenylboronic acid | FC1=C(C=C(C=C1)I)B(O)O | C6H5BFIO2
